US05077288
3-(4-Fluorophenacyl)-1-(2-hydroxyethyl)pyrrolidine
A mixture of 30.5 g of 3-(4-fluorophenacyl)pyrrolidine (Chem. Pharm. Bull., 1977, 25(8), p. 1911-1922), 19.4 g of 2-bromoethanol, 15.6 g of sodium carbonate and 400 ml of acetonitrile is heated to reflux for 6 hours. The mixture is concentrated, the residue is taken up in 150 ml of aqueous saline, the product is extracted 5 times with 150 ml of dichloromethane and this organic phase is dried over anhydrous sodium sulfate and concentrated. The oil obtained is purified by chromatography on 650 g of silica (70-230 mesh), using a mixture of dichloromethane, methanol and ammonia solution (96:4:0.4 V/V) as eluant. A colorless oil is obtained.

reactant | 3-(4-fluorophenacyl)pyrrolidine | 30.5 g | FC1=CC=C(C(CC2CNCC2)=O)C=C1 | C12H14FNO
reactant | 2-bromoethanol | 19.4 g | BrCCO | C2H5BrO
reactant | sodium carbonate | 15.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 3-(4-Fluorophenacyl)-1-(2-hydroxyethyl)pyrrolidine | FC1=CC=C(C(CC2CN(CC2)CCO)=O)C=C1 | C14H18FNO2
